* D:\LTSpice\SRAM 6T.asc
M1 N006 Q 0 0 NMOS
M2 N005 Qbar 0 0 NMOS
M3 N005 Qbar N002 N002 PMOS
M4 N006 Q N002 N002 PMOS
V1 N002 0 5
M5 Q N001 N003 N003 NMOS
M6 N004 N001 Qbar Qbar NMOS
C1 N003 0 1µ
C2 N004 0 1µ
V§bitbar N004 0 PULSE(5 0 0 0 0 25n 50n)
V§bit N003 0 PULSE(0 5 0 0 0 25n 50n)
V§Wordline N001 0 PWL(0 5 15n 5 16n 0 25n 0 26n 5)
.model NMOS NMOS
.model PMOS PMOS
.lib D:\LTSpice\lib\cmp\standard.mos
.tran 0 100n 0 0.1n
.backanno
.end
